US09388176B2
5-bromo-N-(3-isopropylphenyl)nicotinamide
In a manner similar to that described in Preparation 17, 5-bromonicotinic acid and 3-isopropylaniline were converted to the title compound

reactant | 5-bromonicotinic acid | BrC=1C=NC=C(C(=O)O)C1 | C6H4BrNO2
reactant | 3-isopropylaniline | C(C)(C)C=1C=C(N)C=CC1 | C9H13N
product | 5-bromo-N-(3-isopropylphenyl)nicotinamide | BrC=1C=NC=C(C(=O)NC2=CC(=CC=C2)C(C)C)C1 | C15H15BrN2O
